US06706751B2
220 mg (0.8 mmol) [4-(2,3-Dihydro-1H-indol-5-yloxy)-butyl]-(2-methoxy-ethyl)-methyl-amine in 0.5 ml dioxane were treated with 186 mg (0.9 mmol) chloro-thioformic acid (4-chloro-phenyl)ester in 0.5 ml dioxane at 0° C. The solution was stirred at RT for 3 h, was diluted with water and ether and a saturated aqueous solution of NaHCO3 was added. The inorganic layer was extracted with ether, washed with water and dried over Na2SO4. Column chromatography with CH2Cl2/MeOH 19:1 yielded 230 mg (64%) 5-{4-[(2-Methoxy-ethyl)-methyl-amino]-butoxy}-2,3-dihydro-indole-1-carbothioic acid O-(4-chloro-phenyl)ester as yellow viscous oil, MS: 449 (MH+, 1Cl).

reactant | [4-(2,3-Dihydro-1H-indol-5-yloxy)-butyl]-(2-methoxy-ethyl)-methyl-amine | 0.8 mmol, 220 mg | N1CCC2=CC(=CC=C12)OCCCCN(C)CCOC | C16H26N2O2
reactant | chloro-thioformic acid (4-chloro-phenyl)ester | 0.9 mmol, 186 mg | ClC1=CC=C(C=C1)OC(=S)Cl | C7H4Cl2OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 5-{4-[(2-Methoxy-ethyl)-methyl-amino]-butoxy}-2,3-dihydro-indole-1-carbothioic acid O-(4-chloro-phenyl)ester | 230 mg, 64% | ClC1=CC=C(C=C1)OC(=S)N1CCC2=CC(=CC=C12)OCCCCN(C)CCOC | C23H29ClN2O3S
